US08022062B2
7-Ethyl-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Under nitrogen mix 7-ethyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (698 mg, 2.4 mmol), triethylamine (0.67 mL, 4.8 mmol) and anhydrous DCM (25 mL). Cool the mixture in an ice bath, add dropwise trifluoromethanesulfonic anhydride (0.81 mL, 4.8 mmol) and stir at ambient temperature for 3 h. Quench with water and extract three times with DCM. Wash the organic extracts with 0.1N aqueous HCl and brine. Dry over Na2SO4, filter and concentrate to obtain the title compound (1.0 g, 100%). MS (ES+) m/z: 420 (M+H)+.

reactant | 7-ethyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.4 mmol, 698 mg | C(C)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C14H16F3NO2
reactant | triethylamine | 4.8 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 4.8 mmol, 0.81 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 7-Ethyl-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.0 g, 100% | C(C)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C15H15F6NO4S
